US08461162B2
4-[6-(1-Methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzoic acid (50 mg, 0.16 mmol) was dissolved in DMF (2 mL). Resin bound CDI (288 mg, 0.4 mmol), HOBT (26 mg, 0.17 mmol), and cyclopropylamine (20 mg, 0.32 mmol) was added. The reaction was sealed and heated in the microwave at 120° C. for 20 minutes. The reaction was cooled to ambient temperature, filtered and purified by reverse phase chromatography to give N-cyclopropyl-4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzamide as a yellow solid: LC/MS [M+H]=359.0.

reactant | 4-[6-(1-Methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzoic acid | 0.16 mmol, 50 mg | CN1N=CC(=C1)C=1C=NC=2N(C1)N=CC2C2=CC=C(C(=O)O)C=C2 | C17H13N5O2
reactant | CDI | 0.4 mmol, 288 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | HOBT | 0.17 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | cyclopropylamine | 0.32 mmol, 20 mg | C1(CC1)N | C3H7N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-[6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyrimidin-3-yl]benzamide | C1(CC1)NC(C1=CC=C(C=C1)C=1C=NN2C1N=CC(=C2)C=2C=NN(C2)C)=O | C20H18N6O
